US07247734B2
5-(2-Benzyloxy-5-chloro-4-fluoro-phenyl)-4-(4-methoxy-phenyl)-3-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazole (1 eq) was taken up in anhydrous dichloromethane and the solution was cooled under nitrogen to 0° C. 1M boron trichloride in dichloromethane (6 eq) was added dropwise and the solution was allowed to stir for 1 hour. The reaction mixture was added dropwise to sat. NaHCO3 (aq) and the resulting solution was extracted into dichloromethane. The organic phases were washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by preparative LC/MS, to give 4-chloro-5-fluoro-2-[4-(4-methoxy-phenyl)-5-methyl-2H-pyrazol-3-yl]-phenol as a white solid.

reactant | 5-(2-Benzyloxy-5-chloro-4-fluoro-phenyl)-4-(4-methoxy-phenyl)-3-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazole | 1 eq | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)F)Cl)C1=C(C(=NN1COCC[Si](C)(C)C)C)C1=CC=C(C=C1)OC | C30H34ClFN2O3Si
reactant | boron trichloride | 1M | B(Cl)(Cl)Cl | BCl3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 6 eq | ClCCl | CH2Cl2
product | 4-chloro-5-fluoro-2-[4-(4-methoxy-phenyl)-5-methyl-2H-pyrazol-3-yl]-phenol | ClC1=CC(=C(C=C1F)O)C=1NN=C(C1C1=CC=C(C=C1)OC)C | C17H14ClFN2O2
